US08455475B2
8-(2-Methylpyridin-4-yl)-2,8-diazaspiro[4.5]decane dihydrochloride (AMN-37)
Synthesis of this amine was carried out in analogy to Amine AMN-33 employing tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate (1 eq.) and 4-chloro-2-methylpyridine (5 eq.) as starting materials. In step 1 the number of equivalents of N-ethyl-diisopropylamine was adjusted to 5 and the reaction mixture was stirred at 90° C. for 48 h. Step 1—yield: 87%; Step 2—yield: >99%

reactant | tert-butyl 2,8-diazaspiro[4.5]decane-2-carboxylate | 1 eq. | C1N(CCC12CCNCC2)C(=O)OC(C)(C)C | C13H24N2O2
reactant | 4-chloro-2-methylpyridine | 5 eq. | ClC1=CC(=NC=C1)C | C6H6ClN
reactant | N-ethyl-diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
product | 8-(2-Methylpyridin-4-yl)-2,8-diazaspiro[4.5]decane dihydrochloride | yield: 87% | Cl.Cl.CC1=NC=CC(=C1)N1CCC2(CCNC2)CC1 | InChI=1S/C14H21N3.2ClH/c1-12-10-13(2-6-16-12)17-8-4-14(5-9-17)3-7-15-11-14;;/h2,6,10,15H,3-5,7-9,11H2,1H3;2*1H
